US07776875B2
Preparation of Intermediate E/Z-3-[2-(4-tert-butoxycarbonyl-piperazin-1-yl)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
At room temperature, to a solution of E/Z-4-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (11 g, 23 mmol) in dichloromethane (100 mL) added di-tert-butyl-dicarbonate (5.6 g, 25 mmol), followed by the addition of 4-dimethylaminopyridine (2 g, 16 mmol). After stirred for 1 h, the mixture was washed by 1 N HCl solution twice, dried over anhydrous Na2SO4 and concentrated. The residue was purified by flash column to give the title compound as a yellow solid (8 g).

reactant | Z-4-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 23 mmol, 11 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C24H25Cl2N3O3
reactant | di-tert-butyl-dicarbonate | 25 mmol, 5.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 16 mmol, 2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-3-[2-(4-tert-butoxycarbonyl-piperazin-1-yl)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 8 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C29H33Cl2N3O5
